US07829721B2
a) Ethyl (4′-methylbiphenyl-2-yl)acetate
To a mixture composed of 243.1 mg (1 mmol) of ethyl 2-(2-bromophenyl)acetate, 3.7 ml of toluene, 57.8 mg (0.05 mmol) of tetrakis(triphenylphosphine)palladium and 127.2 mg (1.2 mmol) of anhydrous sodium carbonate are added 169.9 mg (1.25 mmol) of 4-methylphenylboronic acid, followed by addition of 2.21 ml (0.055 mmol) of methanol. The reaction medium is heated at 85° C. for 16 hours with stirring. After cooling, 10 ml of water and 8 ml of ethyl acetate are added with stirring, and the mixture is then filtered through a fluted filter paper. The organic phase is recovered and the aqueous phase is extracted again with ethyl acetate.

reactant | ethyl 2-(2-bromophenyl)acetate | 1 mmol, 243.1 mg | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
reactant | sodium carbonate | 1.2 mmol, 127.2 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methylphenylboronic acid | 1.25 mmol, 169.9 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | methanol | 0.055 mmol, 2.21 ml | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 57.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | toluene | 3.7 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl (4′-methylbiphenyl-2-yl)acetate | CC1=CC=C(C=C1)C1=C(C=CC=C1)CC(=O)OCC | C17H18O2
